US06087368
4-Chloroanthranilic acid (10.0 g, 56.5 mmol) was dissolved at room temperature with stirring in 190 mL of distilled water containing 8.98 g (84.7 mmol) Na2CO3. When the 4-chloroanthranilic acid was completely dissolved, a 20% w/v solution of phosgene in toluene (84 mL) was added dropwise via a dropping funnel over 45 minutes. The resulting suspension was stirred at room temperature overnight under nitrogen. The product was collected by filtration and washed well with water. The resulting gray-white solid was dried in a vacuum oven at 60° C. overnight to provide 7-chloro-1,4-dihydro-2H-3,1-benzoxazine-2,4-dione (10.3 g, 52.3 mmol, 93%): 1H NMR (DMSO-d6): δ 11.93 (br s, 1H), 7.17 (d, J=1.5 Hz, 1H), 7.28 (dd, J=1.6 and 8.2 Hz, 1H), 7.91 (d, J=8.2 Hz, 1H).

reactant | 4-Chloroanthranilic acid | 56.5 mmol, 10.0 g | ClC=1C=C(C(C(=O)O)=CC1)N | C7H6ClNO2
reactant | water | 84.7 mmol, 190 mL, 8.98 g | O | H2O
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 84 mL | C1(=CC=CC=C1)C | C7H8
product | 7-chloro-1,4-dihydro-2H-3,1-benzoxazine-2,4-dione | 52.3 mmol, 10.3 g, 93% | ClC1=CC2=C(C(OC(N2)=O)=O)C=C1 | C8H4ClNO3
